US04610983
In 50 ml of isopropanol was dissolved 9.3 g of DL-2-benzyloxycarbonylamino-N5 -methyl-N1,N1 -di(n-propyl)pentane-1,5-diamide, after which 2.2 ml of conc. hydrochloric acid and 0.5 g of 10% palladium-carbon were added and catalytic reduction was carried out at room temperature under atmospheric pressure. After completion of the reaction, the palladium-carbon was removed by filtration and the solvent was removed by distillation under reduced pressure to obtain 6.7 g (yield 97%) of DL-2-amino-N5 -methyl-N1,N1 -di(n-propyl)-pentane-1,5-diamide hydrochloride having a melting point of 125°-127° C.

reactant | hydrochloric acid | 2.2 ml | Cl | ClH
reactant | 2-benzyloxycarbonylamino-N5 -methyl-N1,N1 -di(n-propyl)pentane-1,5-diamide | C(C1=CC=CC=C1)OC(=O)NC(C(=O)N(CCC)CCC)CCC(=O)NC | C20H31N3O4
solvent | isopropanol | 50 ml | C(C)(C)O | C3H8O
catalyst | palladium-carbon | 0.5 g | [C].[Pd]
product | 2-amino-N5 -methyl-N1,N1 -di(n-propyl)-pentane-1,5-diamide hydrochloride | yield 97% | Cl.NC(C(=O)N(CCC)CCC)CCC(=O)NC | InChI=1S/C12H25N3O2.ClH/c1-4-8-15(9-5-2)12(17)10(13)6-7-11(16)14-3;/h10H,4-9,13H2,1-3H3,(H,14,16);1H
